US04920116
2-Diethylamino-1-(3,4,5-trimethoxyphenyl)ethanone
To 100 mL of EtOH is added 28.9 g (0.1 mol) of 2-bromo-1-(3,4,5-trimethoxyphenyl)ethanone and 9.0 g (0.2 mol) of diethylamine. Reflux the reaction mixture and monitor by thin-layer chromatography. Upon completion of the reaction remove the solvent in vacuo and add 100 mL of 5% Na2CO3 solution and extract with Et2O. Dry the organic layer with Na2SO4. Filter off the drying agent and evaporate the solvent in vacuo to obtain the title compound.

reactant | 2-bromo-1-(3,4,5-trimethoxyphenyl)ethanone | 0.1 mol, 28.9 g | BrCC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C11H13BrO4
reactant | diethylamine | 0.2 mol, 9.0 g | C(C)NCC | C4H11N
solvent | EtOH | 100 mL | CCO | C2H6O
product | 2-Diethylamino-1-(3,4,5-trimethoxyphenyl)ethanone | C(C)N(CC(=O)C1=CC(=C(C(=C1)OC)OC)OC)CC | C15H23NO4
